US07569571B2
Preparation of N-Cyclopropyl-4-methyl-3-(6-phenylamino-purin-9-yl)-benzamide
The mixture of 3-(6-chloro-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide (10 mg, 0.029 mmol) and aniline (14 mg, 0.15 mmol) in 0.2 mL of dioxane was heated with microwave at 140° C. for 20 minutes. It was then cooled to RT and purified by HPLC give the title compound as an off-white solid (5.2 mg, 46%). HPLC tR=2.09 min; MS m/z 385 [M+H]+.

reactant | 3-(6-chloro-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide | 0.029 mmol, 10 mg | ClC1=C2N=CN(C2=NC=N1)C=1C=C(C(=O)NC2CC2)C=CC1C | C16H14ClN5O
reactant | aniline | 0.15 mmol, 14 mg | NC1=CC=CC=C1 | C6H7N
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-4-methyl-3-(6-phenylamino-purin-9-yl)-benzamide | 5.2 mg, 46% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)NC1=CC=CC=C1)=O | C22H20N6O
